US06716851B2
4-(2-Methoxy-pyridin-5-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine (50 mg, 0.192 mmol) and 5-amino-2-methoxypyridine (35 mg, 0.288 mmol) similar to Example 180 and was isolated as a solid (30 mg, 45%). 1H NMR (CDCl3): 9.65 (brs, 1H), 8.72-8.69 (m, 2H), 8.26 (d, J=2.7 Hz, 1H), 7.71 (d, J=6.9 Hz, 1H), 7.44-7.40 (m, 2H), 6.86 (d, J=9.0 Hz, 1H), 6.74 (s, 1H), 3.98 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | 0.192 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 5-amino-2-methoxypyridine | 0.288 mmol, 35 mg | NC=1C=CC(=NC1)OC | C6H8N2O
product | 4-(2-Methoxy-pyridin-5-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | COC1=NC=C(C=C1)NC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C16H12F3N5O
